US09353082B2
A solution of 1H-benzo[d][1,2,3]triazole (0.5 g, 4.20 mmol) in tetrahydrofuran (25 ml) was added dropwise to a stirred 20% solution of phosgene (5.30 ml, 10.1 mmol) in toluene at 0-5° C. The reaction mixture was allowed to stir at 20-25° C. for 2 h (reaction complete by TLC). Argon was bubbled through the solution for 15 min. Then the solvent was evaporated in vacuum to give 1H-benzo[d][1,2,3]triazole-1-carbonyl chloride (0.763 g, 4.20 mmol) as a clear oil. The product was used without further purification. Pyridine (0.357 ml, 4.41 mmol) was added dropwise to a stirred solution of the oil in Tetrahydrofuran (25 ml) at 0-5° C. This was followed by a dropwise addition of N-methylcyclohexanamine (0.499 g, 4.41 mmol) at 0-5° C. The reaction mixture was allowed to stir overnight at 20-25° C. Water and EtOAc were added and the organic layer was separated, washed with 1M HCl, water and brine. The organic layer was dried (MgSO4) and evaporated in vacuum to give a clear oil. The oil was recrystallised from 2-propanol/DCM, the solid was collected, dried in vacuum at 40-45° C. Yield 230 mg (21%).

reactant | 1H-benzo[d][1,2,3]triazole | 4.20 mmol, 0.5 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | phosgene | 10.1 mmol, 5.30 ml | C(=O)(Cl)Cl | CCl2O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1H-benzo[d][1,2,3]triazole-1-carbonyl chloride | 4.20 mmol, 0.763 g | N1(N=NC2=C1C=CC=C2)C(=O)Cl | C7H4ClN3O
